US06956050B2
STEP 1. 2-butyl-1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]-4-phenyl-1H-imidazole
The title compound was prepared according to the procedure described in step 3 of Example 5 from 1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]-2-ethyl-4-phenyl-1H-imidazole and butyl iodide. MS (ESI) m/z 435 [M+H]+.

reactant | 1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]-2-ethyl-4-phenyl-1H-imidazole | [Si](C)(C)(C(C)(C)C)OCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=CC=C1)CC | C25H34N2OSi
reactant | butyl iodide | C(CCC)I | C4H9I
product | 2-butyl-1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]-4-phenyl-1H-imidazole | C(CCC)C=1N(C=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)CCO[Si](C)(C)C(C)(C)C | C27H38N2OSi
